US06589967B1
Production of 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-Fluoro-6-methoxyphenyl)methyl]oxime (Compound No. 1)
On the other hand, 0.46 g (2.80 mmol) of 1-(4,6-dimethyl-2-pyridinyl)ethanone oxime was dissolved in 10 ml of N,N-dimethylformamide, and the resultant solution was added with 0.13 g (3.36 mmol) of sodium hydride (60%, oiliness) while cooling the solution with ice. Then, the obtained solution was stirred for 30 min. at the same temperature and subsequently added with the whole amount of the crude product of 2-fluoro-6-methoxybenzyl chloride obtained as described above while cooling the solution with ice. The resultant mixture was. further stirred for 40 min. at a room temperature, and the reacted mixture was poured into ice water and then subjected to an extraction with diethyl ether. The resultant nonaqueous layer was washed with water and the dried with anhydrous magnesium sulfate. The dried nonaqueous layer was then condensed under reduced pressure to obtain a crude product. Then, said crude product was purified by means of silica gel column chromatography (eluate; hexane:ethyl acetate=7:3 v/v) to obtain the target compound in an amount of 0.55 g. Melting point: 87-89° C.

reactant | 1-(4,6-dimethyl-2-pyridinyl)ethanone oxime | 2.80 mmol, 0.46 g | CC1=CC(=NC(=C1)C)C(C)=NO | C9H12N2O
reactant | sodium hydride | 3.36 mmol, 0.13 g | [H-].[Na+]
reactant | 2-fluoro-6-methoxybenzyl chloride | FC1=C(CCl)C(=CC=C1)OC | C8H8ClFO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-Fluoro-6-methoxyphenyl)methyl]oxime | FC1=C(C(=CC=C1)OC)CON=C(C)C1=NC(=CC(=C1)C)C | C17H19FN2O2
